US05545742
Preparation of 2'-Fluoro-5'-(o-methoxy-anilino)-4'-nitroacetanilide
A solution of 2',5'-difluoro-4'-nitroacetanilide (20.0 g, 0.093 mol) and o-anisidine (17.1 g, 0.139 mol) in dioxane is refluxed overnight, treated with additional o-anisidine (5.7 g), refluxed for 5 hours, treated with additional o-anisidine (5.7 g), refluxed for 5 days, treated with N,N-dimethylformamide (50 mL), refluxed overnight, cooled to room temperature and poured into water. The resultant aqueous mixture is extracted with ethyl acetate. The organic extracts are combined, washed sequentially with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a red oil. Flash column chromatography of the oil using silica gel and a 5% ethyl acetate in methylene chloride solution gives the title product as a brown solid which is identified by NMR spectral analyses.

reactant | 2',5'-difluoro-4'-nitroacetanilide | 0.093 mol, 20.0 g | FC1=C(NC(C)=O)C=C(C(=C1)[N+](=O)[O-])F | C8H6F2N2O3
reactant | o-anisidine | 0.139 mol, 17.1 g | COC=1C(=CC=CC1)N | C7H9NO
reactant | o-anisidine | 5.7 g | COC=1C(=CC=CC1)N | C7H9NO
reactant | o-anisidine | 5.7 g | COC=1C(=CC=CC1)N | C7H9NO
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2'-Fluoro-5'-(o-methoxy-anilino)-4'-nitroacetanilide | FC1=C(NC(C)=O)C=C(C(=C1)[N+](=O)[O-])NC1=C(C=CC=C1)OC | C15H14FN3O4
